US06812227B2
To a solution of 0.77 mL (19.3 mmol) of 2-butynl-ol and 0.18 g (4.37 mmol) of sodium hydroxide were heated at 100° C. for one hour. [(6-chloro-pyridine-3-sulfonyl)-methyl-amino]-acetic acid tert-butyl ester (1.0 g, 3.12 mmol) was added to this solution. Additional butynol was added to facilitate stirring, and the reaction was stirred at 100° C. overnight. The reaction was cooled, diluted with water, and washed with ethyl acetate. The aqueous layer was acidified with 2N HCl, and extracted with ethyl acetate (2×). The combined organics were washed with brine, dried over MgSO4, concentrated to solids which were slurried in 1:1:1 dichloromethane:hexane:ethyl acetate to afford 0.41 g (45%) of [(6-but-2-ynyloxy-pyridine-3-sulfonyl)-methyl-amino]-acetic acid as an off-white solid. Electrospray Mass Spec 299.0 (M+H)+

reactant | sodium hydroxide | 4.37 mmol, 0.18 g | [OH-].[Na+]
reactant | [(6-chloro-pyridine-3-sulfonyl)-methyl-amino]-acetic acid tert-butyl ester | 3.12 mmol, 1.0 g | C(C)(C)(C)OC(CN(C)S(=O)(=O)C=1C=NC(=CC1)Cl)=O | C12H17ClN2O4S
reactant | butynol | C(#CCC)O | C4H6O
solvent | water | O | H2O
product | [(6-but-2-ynyloxy-pyridine-3-sulfonyl)-methyl-amino]-acetic acid | 0.41 g, 45% | C(C#CC)OC1=CC=C(C=N1)S(=O)(=O)N(C)CC(=O)O | C12H14N2O5S
